US08791147B2
5-((tert-Butyldimethylsilyloxy)methyl)-2-fluoropyridin-3-ylboronic acid (0.400 g, 1.40 mmol) was placed into a flask with a mixture of DME/H2O (6 mL/2 mL). To the reaction mixture was added 5-bromo-2-(2,2,2-trifluoroethoxy)pyridine (0.358 g, 1.40 mmol), Na2CO3 (1.87 g, 17.6 mmol), and Pd(PPh3)4 (0.081 g, 0.07 mmol) and the reaction was allowed to stir at 80° C. overnight. The reaction was cooled to rt and concentrated. A solution of saturated NaHCO3 (5 mL) was added, and then this mixture was extracted with EtOAc (3×20 mL). The combined organic layer was then washed with saturated NaHCO3 (1×10 mL), brine (1×10 mL), dried (MgSO4), filtered, and concentrated. Purification by column chromatography (9:1 hexane:EtOAc) gave 5-((tert-butyldimethylsilyloxy)methyl)-2-fluoro-3-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)pyridine.

reactant | 5-((tert-Butyldimethylsilyloxy)methyl)-2-fluoropyridin-3-ylboronic acid | 1.40 mmol, 0.400 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C(=NC1)F)B(O)O | C12H21BFNO3Si
reactant | 5-bromo-2-(2,2,2-trifluoroethoxy)pyridine | 1.40 mmol, 0.358 g | BrC=1C=CC(=NC1)OCC(F)(F)F | C7H5BrF3NO
reactant | Na2CO3 | 17.6 mmol, 1.87 g | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.07 mmol, 0.081 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME H2O | 6 mL | COCCOC.O
product | 5-((tert-butyldimethylsilyloxy)methyl)-2-fluoro-3-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)pyridine | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C(=NC1)F)C=1C=NC(=CC1)OCC(F)(F)F | C19H24F4N2O2Si
